US06964961B2
A. 1-Benzhydryl-azetidin-3-ylamine
Ammonia gas was bubbled through a solution of methanesulfonic acid 1-benzhydryl-azetidin-3-yl ester (952.4 mg, 3 mmol) in MeOH (15 mL). After 2 hours, TLC showed the reaction to be complete. The title compound was obtained as a white solid (643.5 mg, 90%) after removal of the solvent. MS: 239 (MH+); HPLC Rf: 3.54 min; HPLC purity: 98%.

reactant | Ammonia | N | H3N
reactant | methanesulfonic acid 1-benzhydryl-azetidin-3-yl ester | 3 mmol, 952.4 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)OS(=O)(=O)C | C17H19NO3S
solvent | MeOH | 15 mL | CO | CH4O
product | 1-Benzhydryl-azetidin-3-ylamine | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)N | C16H18N2
